US05449810
Into a three-necked flask equipped with a dropping funnel, a three-way cock and a thermometer was placed 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide (12.2 g, 27 mmols), followed by adding tetrahydrofuran (100 ml), suspending, and stirring under ice cooling the liquid temperature reached 10° C. The resulting reaction mixture was added potassium t-butoxide (3.0 g, 27 mmols), followed by elevating the temperature up to room temperature under ice cooling, stirring for one hour, dropwise adding a tetrahydrofuran (50 ml) solution of 4-(4-trifluoromethylphenyl)cyclohexanone (6.0 g, 25 mmols) over 30 minutes from the dropping funnel, further stirring the reaction mixture for 5 hours after completion of the dropwise addition, adding ether (100 ml), allowing to stand for one hour, filtering off deposited insoluble substance, concentrating the filtrate under reduced pressure and isolating and purifying the resulting pale brown oil by means of silica gel column chromatography, to obtain 1-(2-(1,3-dioxan-2-yl)ethylidene)-4-(4-trifluoromethylphenyl)cyclohexane.

reactant | 2-(1,3-dioxan-2-yl)ethyltriphenylphosphonium bromide | 27 mmols, 12.2 g | [Br-].O1C(OCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | potassium t-butoxide | 27 mmols, 3.0 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 4-(4-trifluoromethylphenyl)cyclohexanone | 25 mmols, 6.0 g | FC(C1=CC=C(C=C1)C1CCC(CC1)=O)(F)F | C13H13F3O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(2-(1,3-dioxan-2-yl)ethylidene)-4-(4-trifluoromethylphenyl)cyclohexane | O1C(OCCC1)CC=C1CCC(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H23F3O2
